US09388195B2
D) Production of 2-[(tert-butoxycarbonyl)(prop-2-en-1-yl)amino]pent-4-en-1-yl 4-nitrobenzoate
To a mixture of tert-butyl [1-(hydroxymethyl)but-3-en-1-yl]prop-2-en-1-ylcarbamate (15.0 g) produced above, triethylamine (19.0 g) and dichloromethane (150 mL) was added N,N-dimethylpyridin-4-amine (0.7 g). To the mixture was added dropwise a solution of 4-nitrobenzoyl chloride (14.2 g) in dichloromethane (30 mL), and the mixture was stirred at 0° C. for 30 min. The reaction mixture was diluted with saturated aqueous sodium hydrogen carbonate, the mixture was extracted with dichloromethane, and the extract was dried over anhydrous sodium sulfate. Insoluble material was filtered off, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/petroleum ether) to give the title compound (14.1 g).

reactant | tert-butyl [1-(hydroxymethyl)but-3-en-1-yl]prop-2-en-1-ylcarbamate | 15.0 g | OCC(CC=C)N(C(OC(C)(C)C)=O)CC=C | C13H23NO3
reactant | triethylamine | 19.0 g | C(C)N(CC)CC | C6H15N
reactant | 4-nitrobenzoyl chloride | 14.2 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
catalyst | N,N-dimethylpyridin-4-amine | 0.7 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | 2-[(tert-butoxycarbonyl)(prop-2-en-1-yl)amino]pent-4-en-1-yl 4-nitrobenzoate | 14.1 g | [N+](=O)([O-])C1=CC=C(C(=O)OCC(CC=C)N(CC=C)C(=O)OC(C)(C)C)C=C1 | C20H26N2O6
